US05908858
13(i) N-(4-Fluorobenzylidene)-4-sulfamoylaniline
Following a procedure similar to that described in Example 1(i), but using 4-fluorobenzaldehyde and 4-sulfamoylaniline as starting materials, the title compound was obtained as a white powder (yield 63%).

reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 4-sulfamoylaniline | S(N)(=O)(=O)C1=CC=C(N)C=C1 | C6H8N2O2S
product | N-(4-Fluorobenzylidene)-4-sulfamoylaniline | FC1=CC=C(C=NC2=CC=C(C=C2)S(N)(=O)=O)C=C1 | C13H11FN2O2S
